US07981932B2
Production of Sodium di-(2-ethylhexyl)-sulfosuccinate (Solution in Water/Ethanol)
556 g (1.63 mol) di-(2-ethylhexyl)-maleate, 40 g Hydropalat 875, 160 g (0.84 mol) sodium disulfite and 194 g deionized water were introduced into a 1-liter four-necked flask equipped with a mechanical stirrer, heating system, reflux condenser and nitrogen inlet and were heated under reflux at 104° C. in a gentle stream of nitrogen until a clear solution was obtained (ca. 3 hours). After stirring for 10 minutes, no more sulfite could be detected in the product. On cooling, the product gelled/solidified which could be avoided by addition of a co-solvent: to this end, 50 g ethanol was added at ca. 80° C. The solution thus obtained contained 75% by weight sulfosuccinate and had the following characteristic data: Epton: 16.39%; dry residue: 74.29%.

reactant | di-(2-ethylhexyl)-maleate | 1.63 mol, 556 g | C(C)C(C/C(=C(/C(=O)[O-])\CC(CCCC)CC)/C(=O)[O-])CCCC
reactant | sodium disulfite | 0.84 mol, 160 g | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
reactant | sulfite | S(=O)([O-])[O-]
reactant | sulfosuccinate | S(=O)(=O)(O)C(C(=O)[O-])CC(=O)[O-]
reactant | ethanol | 50 g | C(C)O | C2H6O
solvent | water | O | H2O
product | Sodium di-(2-ethylhexyl)-sulfosuccinate | C(C)C(CC(C(C(=O)[O-])S(=O)(=O)O)(C(=O)[O-])CC(CCCC)CC)CCCC.[Na+].[Na+] | InChI=1S/C20H38O7S.2Na/c1-5-9-11-15(7-3)13-20(19(23)24,14-16(8-4)12-10-6-2)17(18(21)22)28(25,26)27;;/h15-17H,5-14H2,1-4H3,(H,21,22)(H,23,24)(H,25,26,27);;/q;2*+1/p-2
